US07893267B2
33 mg (0.1 mmol) of 2-[(isoquinoline-3-carbonyl)-amino]-5-methoxy-1H-benzoimidazole-4-carboxylic acid and 100 mg (0.25 mmol) of HBTU were dissolved in 1.0 mL of DMF and 0.4 mL of DIEA was treated with 32 mg (0.15 mmol) of 4-methanesulfonyl-benzylamine hydrochloride as described in general procedure A. Upon completion, the reaction was diluted with brine. The resulting solid was filtered, washed with water and EtOAc, and dried under vacuum to produce 25 mg (47%) of isoquinoline-3-carboxylic acid [7-(4-methanesulfonyl-benzylcarbamoyl)-6-methoxy-1H-benzoimidazol-2-yl]-amide. LCMS: 530 (M+1)+.

reactant | 2-[(isoquinoline-3-carbonyl)-amino]-5-methoxy-1H-benzoimidazole-4-carboxylic acid | 0.1 mmol, 33 mg | C1=NC(=CC2=CC=CC=C12)C(=O)NC1=NC2=C(N1)C=CC(=C2C(=O)O)OC | C19H14N4O4
reactant | HBTU | 0.25 mmol, 100 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-methanesulfonyl-benzylamine hydrochloride | 0.15 mmol, 32 mg | Cl.CS(=O)(=O)C1=CC=C(CN)C=C1
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | isoquinoline-3-carboxylic acid [7-(4-methanesulfonyl-benzylcarbamoyl)-6-methoxy-1H-benzoimidazol-2-yl]-amide | 25 mg, 47% | CS(=O)(=O)C1=CC=C(CNC(=O)C2=C(C=CC3=C2NC(=N3)NC(=O)C=3N=CC2=CC=CC=C2C3)OC)C=C1 | C27H23N5O5S
